US05856503
A suspension of 0.5 g of 1-(4-bromo-phenyl)-isoquinolin-6-ol in 15 ml of DMF is cooled to 0° C. and treated with 0.15 g of ~55% sodium hydride. The mixture is stirred for 40 min., with a solution resulting. A solution of 0.39 g of (E)-1,4-dibromo-2-butene in 5 ml of DMF is added dropwise at -20° C. After stirring at -15° to -20° C. for 3 hrs. 0.8 ml of N-allyl-methyl-amine is added, the mixture is stirred overnight and warmed to room temperature. Subsequently, the reaction mixture is concentrated and the residue is treated with sodium hydrogen carbonate solution and extracted with methylene chloride. The organic extracts are washed with saturated sodium chloride solution, dried over sodium sulphate and concentrated. The residue is chromatographed with toluene/acetone/triethylamine (90:9:1 to 70:29:1). There is obtained 0.1 g of (E)-allyl-[4-[1-(4-bromo-phenyl)-isoquinolin-6-yloxy]-but-2-enyl]-methyl-amine which is converted into the fumarate, MS: m/e 423 (M+H+, 1 Br).

reactant | 1-(4-bromo-phenyl)-isoquinolin-6-ol | 0.5 g | BrC1=CC=C(C=C1)C1=NC=CC2=CC(=CC=C12)O | C15H10BrNO
reactant | sodium hydride | 0.15 g | [H-].[Na+]
reactant | (E)-1,4-dibromo-2-butene | 0.39 g | BrC\C=C\CBr | C4H6Br2
reactant | N-allyl-methyl-amine | 0.8 ml | C(C=C)NC | C4H9N
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (E)-allyl-[4-[1-(4-bromo-phenyl)-isoquinolin-6-yloxy]-but-2-enyl]-methyl-amine | 0.1 g | C(C=C)N(C)C\C=C\COC=1C=C2C=CN=C(C2=CC1)C1=CC=C(C=C1)Br | C23H23BrN2O
